US07888364B2
64 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-(N-(2-(1H-pyrrol-1-yl)ethyl)methylsulfonamido)-2-chlorobenzoic acid via Procedure G. The crude product was purified by reverse phase HPLC to yield 4-(N-(2-(1H-pyrrol-1-yl)ethyl)methylsulfonamido)-2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide. MS (Q1) 529 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 64 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-(N-(2-(1H-pyrrol-1-yl)ethyl)methylsulfonamido)-2-chlorobenzoic acid | N1(C=CC=C1)CCN(S(=O)(=O)C)C1=CC(=C(C(=O)O)C=C1)Cl | C14H15ClN2O4S
product | 4-(N-(2-(1H-pyrrol-1-yl)ethyl)methylsulfonamido)-2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide | N1(C=CC=C1)CCN(S(=O)(=O)C)C1=CC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)Cl | C25H22Cl2N4O3S
